US04786649
6,7-Difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.5 g) and 3-acetylaminomethyl-4-chloropyrrolidine (0.86 g) are added to N-methylpyrrolidone (50 ml) and the mixture is stirred at 110° C. for one hour. After the reaction, the solvent is distilled off and the resulting residue is crystallized with ethanol. The crystals are separated by filtration and then recrystallized from ethanol to give 6-fluoro-1-(2-thienyl)7-(3-acetylaminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.54 g) powder, m.p. 145° C. (decomp.).

reactant | 6,7-Difluoro-1-(2-thienyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.5 g | FC=1C=C2C(C(=CN(C2=CC1F)C=1SC=CC1)C(=O)O)=O | C14H7F2NO3S
reactant | 3-acetylaminomethyl-4-chloropyrrolidine | 0.86 g | C(C)(=O)NCC1CNCC1Cl | C7H13ClN2O
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 6-fluoro-1-(2-thienyl)7-(3-acetylaminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.54 g | FC=1C=C2C(C(=CN(C2=CC1N1CC(C(C1)Cl)CNC(C)=O)C=1SC=CC1)C(=O)O)=O | C21H19ClFN3O4S
